US04228100
Reaction of THPC (9.53 g, 0.05 mol) with 2-imidazolidinone (17.22 g, 0.2 mol) in toluene (75 ml), following Example 1, gave 22.23 g (96.1%) of tetrakis[(2-oxo-1-imidazolidinyl)methyl]phosphonium chloride (I, R, R'=CH2CH2, R"=H, X=Cl) as a white solid, mp 220° C. The product was soluble in dilute sodium hydroxide and insoluble in water or organic solvents.

reactant | THPC | 0.05 mol, 9.53 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | 2-imidazolidinone | 0.2 mol, 17.22 g | N1C(NCC1)=O | C3H6N2O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | tetrakis[(2-oxo-1-imidazolidinyl)methyl]phosphonium chloride | 22.23 g, 96.1% | [Cl-].O=C1N(CCN1)C[P+](CN1C(NCC1)=O)(CN1C(NCC1)=O)CN1C(NCC1)=O | InChI=1S/C16H27N8O4P.ClH/c25-13-17-1-5-21(13)9-29(10-22-6-2-18-14(22)26,11-23-7-3-19-15(23)27)12-24-8-4-20-16(24)28;/h1-12H2,(H3-,17,18,19,20,25,26,27,28);1H
